US04590271
A. 3-Anilino-2-(5-methoxy-1-methyl-3-indolylmethyl)acrylonitrile
The title compound was prepared from 5-methoxy-1-methylindole-3-carboxaldehyde (S. Misztal, Dessert. Pharm. Pharmacol., 1972, 24, 509) and 3-anilinopropionitrile by the procedure of Example 4A (71%); the structure was confirmed by 1H-NMR.

reactant | 5-methoxy-1-methylindole-3-carboxaldehyde | COC=1C=C2C(=CN(C2=CC1)C)C=O | C11H11NO2
reactant | 3-anilinopropionitrile | N(C1=CC=CC=C1)CCC#N | C9H10N2
product | 3-Anilino-2-(5-methoxy-1-methyl-3-indolylmethyl)acrylonitrile | N(C1=CC=CC=C1)C=C(C#N)CC1=CN(C2=CC=C(C=C12)OC)C | C20H19N3O
